US05245056
138.5 g of benzoic anhydride and subsequently 2.5 ml of perchloric acid 70% were added to a suspension of 191.3 g of the δ-lactone from c) in 1250 ml of toluene. After stirring for 2.5 hours the reaction mixture in toluene was extracted with 1N sodium hydroxide solution in 20% sodium chloride solution and then with saturated sodium chloride solution. The organic phases were combined, dried and evaporated. 243.4 g (100.0%) of rac-(2RS,3RS,5SR)-3-benzoyloxy-2-ethyl-5-heptadecyl-δ-valerolactone, m.p. 64.5°-66°, resulted.

reactant | benzoic anhydride | 138.5 g | C(C1=CC=CC=C1)(=O)OC(C1=CC=CC=C1)=O | C14H10O3
reactant | perchloric acid | 2.5 ml | Cl(=O)(=O)(=O)O | ClHO4
reactant | toluene | 1250 ml | C1(=CC=CC=C1)C | C7H8
product | rac-(2RS,3RS,5SR)-3-benzoyloxy-2-ethyl-5-heptadecyl-δ-valerolactone | 243.4 g, 100.0% | C(C1=CC=CC=C1)(=O)OC1C(C(=O)OC(C1)CCCCCCCCCCCCCCCCC)CC | C31H50O4
